US06232290B1
To a suspension of 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester (1 g) and potassium carbonate (4 g) in N,N-dimethylformamide (50 ml) was added 1,5-dibromopentane (2 ml) and the mixture was stirred at room temperature for 6 hours. The reaction mixture was pulverized with ethyl acetate. The precipitate was collected by filtration, washed with water and methanol. To a suspension of the powder in methanol (10 ml) was added sodium methylate (28% in methanol) (20 ml) and the mixture was stirred at 80° C. for 19 hours. The reaction mixture was pulverized with water. The precipitate was collected by filtration, washed with water, methanol and diisopropyl ether and dried to give 4-[2-[4-(5-methoxypentyloxy)phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid methyl ester (479 mg).

reactant | 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester | 1 g | C(C)OC(C1=CC=C(C=C1)C=1N=C2SC(=NN2C1)C1=CC=C(C=C1)O)=O | C19H15N3O3S
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 2 ml | BrCCCCCBr | C5H10Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[2-[4-(5-methoxypentyloxy)phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid methyl ester | 479 mg | COC(C1=CC=C(C=C1)C=1N=C2SC(=NN2C1)C1=CC=C(C=C1)OCCCCCOC)=O | C24H25N3O4S
